US04767759
(-)-1-Benzyl-4-diethylaminomethyl-pyrrolidin-2-one
A mixture of 11.5 g (0.056 mol) of (-)-1-benzyl-4-amino-methyl-pyrrolidin-2-one, 130 ml of water, 13 g of acetaldehyde, 5.8 ml of concentrated hydrochloric acid and 6.5 g of 20% palladium-on-charcoal was hydrogenated for 51/4 hours at 5 bar and at 25° C. The reaction mixture was filtered, the filtrate was evaporated, the residue was taken up in 30 ml of water, and the solution was extracted with methylene chloride. The aqueous hydrochloric acid solution was made alkaline and then extracted with methylene chloride. By distillation of the combined extracts in a bulbed tube, 11.2 g (76.4% of theory) of the title compound were obtained, αD =-9.4 (c =1.0; :ethanol).

reactant | (-)-1-benzyl-4-amino-methyl-pyrrolidin-2-one | 0.056 mol, 11.5 g | C(C1=CC=CC=C1)N1C(C(C(C1)N)C)=O | C12H16N2O
reactant | acetaldehyde | 13 g | C(C)=O | C2H4O
reactant | hydrochloric acid | 5.8 ml | Cl | ClH
catalyst | palladium-on-charcoal | 6.5 g | [Pd] | Pd
solvent | water | 130 ml | O | H2O
product | (-)-1-Benzyl-4-diethylaminomethyl-pyrrolidin-2-one | C(C1=CC=CC=C1)N1C(CC(C1)CN(CC)CC)=O | C16H24N2O
